US05914339
5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(cyclohexyl) ester hydrochloride salt
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and cyclohexanol according to the procedure of Example 1 as a yellow gum: 1H NMR (300 MHz, CDCl3): δ 1.10-1.40 (complex m, 7H), 1.45-1.60 (brm, 4H), 1.63-1.81 (brm, 8H), 1.82-1.95 (brm, 4H), 2.72-2.90 (brm, 1H), 3.10-3.30 (brm, 2H), 3.37-3.55 (m, 2H), 4.90-5.03 (m, 2H), 5.37-5.52 (brs, 1H), 6.71-6.90 (complex m, 4H), 7.20-7.32 (m, 2H), 7.44 (s, 1H), 8.55-8.80 (brs, 1H), 9.90-10.20 (brs, 1H); MS (ES) m/z (relative intensity): 585 (M+ -HCl), 532 (10).

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
reactant | HCl | Cl | ClH
product | 5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(cyclohexyl) ester hydrochloride salt | Cl.C1(CCCCC1)OC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)OC2CCCCC2 | InChI=1S/C32H40ClNO7.ClH/c1-21(34-20-27(35)23-9-8-10-24(33)19-23)17-22-15-16-28-29(18-22)41-32(40-28,30(36)38-25-11-4-2-5-12-25)31(37)39-26-13-6-3-7-14-26;/h8-10,15-16,18-19,21,25-27,34-35H,2-7,11-14,17,20H2,1H3;1H
